US07771744B2
Procedure for Preparation of 200 mg Tablets Containing 20 mg of Bazedoxifene (as Acetate)
The procedure is similar to that of Example 1, except that the amounts of the components used are: bazedoxifene acetate (1,128 g), AVICEL PH101® (microcrystalline cellulose) (4,036 g), lactose NF (fast flow; 4,036 g), ascorbic acid (300 g), sodium starch glycolate (400 g) and magnesium stearate (100 g).

reactant | bazedoxifene acetate | 1,128 g | CC=1C=2C=C(C=CC2N(C1C=3C=CC(=CC3)O)CC=4C=CC(=CC4)OCCN5CCCCCC5)O.CC(=O)O
reactant | lactose | OC1[C@H](O)[C@@H](O)[C@H](O[C@H]2[C@H](O)[C@@H](O)[C@@H](O)[C@H](O2)CO)[C@H](O1)CO | C12H22O11
reactant | ascorbic acid | 300 g | O=C1C(O)=C(O)[C@H](O1)[C@@H](O)CO | C6H8O6
reactant | magnesium stearate | 100 g | C(CCCCCCCCCCCCCCCCC)(=O)[O-].[Mg+2].C(CCCCCCCCCCCCCCCCC)(=O)[O-]
product | Bazedoxifene | CC=1C=2C=C(C=CC2N(C1C=3C=CC(=CC3)O)CC=4C=CC(=CC4)OCCN5CCCCCC5)O | C30H34N2O3
